US08541457B2
Synthesis of N-(5-(2-Benzoylhydrazinecarbonyl)-4-methylthiazol-2-yl)benzamide
To a solution of 2-benzamido-4-methylthiazole-5-carboxylic acid (0.30 g, 1.14 mmol) in tertahydrofuran (28 mL) was added N-methylmorpholine (0.23 mL, 0.21 g, 2.09 mmol) under nitrogen atmosphere, followed by the addition of isobutyl chloroformate (0.2 mL, 0.21 g, 1.54 mmol) dropwise at ambient temperature. The mixture was stirred at ambient temperature for 7 hours. Benzhydrazide (0.23 g, 1.71 mmol) and 4-methylmorpholine (0.15 mL, 0.14 g, 1.36 mmol) were added to the reaction mixture. After being stirred at ambient temperature for 18 hours, the reaction mixture was diluted with ethyl acetate (50 mL), washed with water (3×10 mL). The organic phase was separated and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated in vacuo. The crude product was purified by column chromatography eluted with ethyl acetate/hexanes (20/80 to 30/70) to afford the title compound as a white solid (0.059 g, 14% yield); m.p. 258-260° C.; 1H NMR (DMSO-d6, 300 MHz) δ 12.90 (br, 1H), 10.46 (s, 1H), 10.10 (s, 1H), 8.09 (d, J=7.4 Hz, 2H), 7.93 (d, J=6.9 Hz, 2H), 7.65-7.47 (m, 6H), 2.56 (s, 3H); MS (ES+) m/z 381.4 (M+1).

reactant | 2-benzamido-4-methylthiazole-5-carboxylic acid | 1.14 mmol, 0.30 g | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)C)C(=O)O | C12H10N2O3S
reactant | N-methylmorpholine | 2.09 mmol, 0.23 mL, 0.21 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.54 mmol, 0.2 mL, 0.21 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Benzhydrazide | 1.71 mmol, 0.23 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | 4-methylmorpholine | 1.36 mmol, 0.15 mL, 0.14 g | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-(2-Benzoylhydrazinecarbonyl)-4-methylthiazol-2-yl)benzamide | 0.059 g, 14% yield | C(C1=CC=CC=C1)(=O)NNC(=O)C1=C(N=C(S1)NC(C1=CC=CC=C1)=O)C | C19H16N4O3S
